US06720423B2
1-[5-(1S 2S)-(2-Hydroxymethyl-1-methyl-cyclopropyl)-3,3-dimethyl-2,3-dihydro-benzofuran-7-yl]-heptan-3-one (Intermediate 81)
Following General Procedure C and using 1.57M diethylzinc in anhydrous dichloromethane (10 mL, 15.7 mmol), 1,2-dimethoxyethane (1.63 mL, 15.7 mmol), diiodomethane (2.53 mL, 31.4 mmol), 1-[5-((Z)-3-hydroxy-1-methyl-propenyl)-3,3-dimethyl-2,3-dihydro-benzofuran-7-yl]-heptan-3-one (Intermediate 800.18 g, 0.55 mmol), 4A° molecular sieves powder (0.4 g) and (4S-trans)-2-butyl-N,N,N′,N′-tetramethyl[1,3,2]dioxaborolane-[4,5]dicarboxamide (0.34 g, 1.17 mmol) in 3 mL of anhydrous dichloromethane followed by flash column chromatography using 20% ethyl acetate in hexane, the title compound was obtained as a brown oil (0.16 g,85%). It was used as such for the next step.

reactant | diethylzinc | 1.57M | C(C)[Zn]CC
reactant | 1,2-dimethoxyethane | 15.7 mmol, 1.63 mL | COCCOC | C4H10O2
reactant | diiodomethane | 31.4 mmol, 2.53 mL | ICI | CH2I2
reactant | 1-[5-((Z)-3-hydroxy-1-methyl-propenyl)-3,3-dimethyl-2,3-dihydro-benzofuran-7-yl]-heptan-3-one | 0.55 mmol, 800.18 g | OC\C=C(\C)/C=1C=C(C2=C(C(CO2)(C)C)C1)CCC(CCCC)=O | C21H30O3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | dichloromethane | 15.7 mmol, 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[5-(1S 2S)-(2-Hydroxymethyl-1-methyl-cyclopropyl)-3,3-dimethyl-2,3-dihydro-benzofuran-7-yl]-heptan-3-one | OC[C@@H]1[C@@](C1)(C)C=1C=C(C2=C(C(CO2)(C)C)C1)CCC(CCCC)=O | C22H32O3
